US07750177B2
Preparation of N,N-diethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)-acrylamide (entacapone); (I)
A round-bottom flask under nitrogen atmosphere is loaded with N,N-diethyl-2-cyano-3-(-3-methoxy-4-hydroxy-5-nitrophenyl-)-acrylamide (134 g, 0.421 mol) dissolved in dichloromethane (0.65 l) and triethylamine (128 g, 1.26 mol). The solution is cooled to 0-5° C. and aluminium trichloride (67.4 g, 0.505 mol) is added in portions. After that, the mixture is refluxed for 3-4 hours, until completion of the conversion. The reaction mixture is cooled to 0-5° C., a 20% hydrochloric acid solution (0.5 l) is dropped in the mixture, which is left under stirring at room temperature for 30 minutes. The resulting solid is filtered, washing with water (0.1 l×3), and dried in a static dryer under reduced pressure at 50° C.; 126 g are obtained. Yield: 98%.

reactant | N,N-diethyl-2-cyano-3-(-3-methoxy-4-hydroxy-5-nitrophenyl-)-acrylamide | 0.421 mol, 134 g | C(C)N(C(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)OC)C#N)=O)CC | C15H17N3O5
reactant | triethylamine | 1.26 mol, 128 g | C(C)N(CC)CC | C6H15N
reactant | aluminium trichloride | 0.505 mol, 67.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 0.5 l | Cl | ClH
solvent | dichloromethane | 0.65 l | ClCCl | CH2Cl2
product | N,N-diethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)-acrylamide | Yield: 98% | C(C)N(C(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C#N)=O)CC | C14H15N3O5
